US05118441
Step iv) Production of 5-hexylthiophene-2-carboxylic acid
In a 500 ml-four-necked flask, 10.0 g (5.10×10-2 mol) of 5-hexylthiophene-2-carbaldehyde, 60 ml of ethanol and a solution of 19.0 g of AgNO3 in 60 ml of water were placed. A solution of 10.2 g of NaOH in 300 ml of water was added dropwise to the mixture in 30 min. at room temperature, followed by stirring for 1.5 hours. After the reaction, the reaction mixture was subjected to filtration, and the filtrate was acidified with 6N-HCl to precipitate a crystal. The crystal was recovered by filtration to provide a crude product. The product was subjected to recrystallization from 50% hydrous ethanol to obtain 8.28 g of a pure product (yield: 76.6%).

reactant | 5-hexylthiophene-2-carbaldehyde | 5.10×10-2 mol, 10.0 g | C(CCCCC)C1=CC=C(S1)C=O | C11H16OS
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | NaOH | 10.2 g | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | water | 300 ml | O | H2O
catalyst | AgNO3 | 19.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-hexylthiophene-2-carboxylic acid | 8.28 g, yield: 76.6% | C(CCCCC)C1=CC=C(S1)C(=O)O | C11H16O2S
